US08314117B2
tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(4-(2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamido)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate.
In an oven-dried 100 ml round-bottom flask was dissolved 1-(piperidin-4-yl)-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2(3H)-one (52.3 mg, 0.150 mmol) in methylene chloride (5 mL) to give a colorless solution. Triethylamine (0.038 mL, 0.28 mmol) was added under nitrogen and the mixture was cooled to −20° C. Trichloromethyl chloroformate (0.012 mL, 0.100 mmol) was added dropwise. The mixture was gradually warmed up with stirring to 10° C. for 1 h, during which time the solution became slightly yellow. The reaction was concentrated to dryness under vacuum. tert-Butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate (48.7 mg, 0.125 mmol) and triethylamine (0.038 mL, 0.275 mmol) dissolved in 1 mL tetrahydrofuran (plus 2 mL rinse) was added via cannula at room temperature. More triethylamine (0.038 mL, 0.275 mmol) was added. The resulting faint yellow suspension was stirred under nitrogen overnight. The reaction was diluted with ethyl acetate and washed with water three times. The ethyl acetate layer was separated, dried (sodium sulfate), filtered and concentrated. Flash chromatography using methanol in methylene chloride from 0 to 10% gave the desired product (12 mg, 13%): MS(ESI)[M+H+]=764.38.

reactant | 1-(piperidin-4-yl)-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.150 mmol, 52.3 mg | N1CCC(CC1)N1C(N(C2=NC=CC=C21)COCC[Si](C)(C)C)=O | C17H28N4O2Si
reactant | Triethylamine | 0.28 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | Trichloromethyl chloroformate | 0.100 mmol, 0.012 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | tert-Butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 0.125 mmol, 48.7 mg | N[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C21H25F2N3O2
reactant | triethylamine | 0.275 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.275 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(4-(2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamido)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 12 mg, 13% | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@@H](CC1)NC(=O)N1CCC(CC1)N1C(N(C2=NC=CC=C21)COCC[Si](C)(C)C)=O)NC(OC(C)(C)C)=O | C39H51F2N7O5Si
